US08217032B2
[6-Hydroxy-2-(2,4,6-trifluoro-phenyl)-naphthalen-1-yl]-[4-(2-piperidin-1-yl-ethoxy)-phenyl]-methanone
Alternatively, dissolve [6-methoxy-2-(2,4,6-trifluoro-phenyl)-naphthalen-1-yl]-[4-(2-piperidin-1-yl-ethoxy)-phenyl]-methanone (1.90 g, 3.67 mmol) in dichloromethane (10 ml). Add 2 M HCl in diethyl ether (4.0 mL, 80 mmol). Concentrate the slurry and dry in vacuo. Dilute the residue in dichloromethane (30 ml) and blanket with nitrogen. Cool the solution to 0° C. with an external ice bath. Add boron tribromide (1 mL, 11 mmol). After 60 minutes, pour the reaction mixture into a mixture of ice (20 g), methanol (10 mL) and saturated sodium bicarbonate solution (20 mL). Extract with dichloromethane (100 mL). Separate the layers, wash the organic layer with brine (20 mL), dry with magnesium sulfate, filter, and concentrate in vacuo. Purify the residue over silica gel, eluting the material with a step gradient of methanol/dichloromethane (0 to 10%), to give 1.6 g (87%) of the title compound: mass spectrum (ion spray) m/z=506.2 (M+H).

reactant | [6-methoxy-2-(2,4,6-trifluoro-phenyl)-naphthalen-1-yl]-[4-(2-piperidin-1-yl-ethoxy)-phenyl]-methanone | 3.67 mmol, 1.90 g | COC=1C=C2C=CC(=C(C2=CC1)C(=O)C1=CC=C(C=C1)OCCN1CCCCC1)C1=C(C=C(C=C1F)F)F | C31H28F3NO3
reactant | HCl | 2 M | Cl | ClH
reactant | diethyl ether | 80 mmol, 4.0 mL | C(C)OCC | C4H10O
reactant | boron tribromide | 11 mmol, 1 mL | B(Br)(Br)Br | BBr3
reactant | sodium bicarbonate | 20 mL | C([O-])(O)=O.[Na+]
solvent | dichloromethane | 10 ml | ClCCl | CH2Cl2
solvent | methanol | 10 mL | CO | CH4O
product | [6-Hydroxy-2-(2,4,6-trifluoro-phenyl)-naphthalen-1-yl]-[4-(2-piperidin-1-yl-ethoxy)-phenyl]-methanone | 1.6 g, 87% | OC=1C=C2C=CC(=C(C2=CC1)C(=O)C1=CC=C(C=C1)OCCN1CCCCC1)C1=C(C=C(C=C1F)F)F | C30H26F3NO3
